US09290511B2
Ethyl 2-amino-4-phenyl-thiophene-3-carboxylate (2 g, 8.087 mmol) and trifluoroacetamidine (4.531 g, 40.44 mmol) were combined in ethanol (20 mL) and heated to reflux overnight. Further trifluoroacetamidine (4.531 g, 40.44 mmol) was added and the reaction heated to reflux for a further 18 hours. The reaction mixture was allowed to cool to room temperature. The resulting precipitate was filtered off, washed with ethanol (5 mL) and dried in vacuo at 40° C. to afford 5-phenyl-2-(trifluoromethyl)-3H-thieno[2,3-d]pyrimidin-4-one (1.195 g). LCMS: purity 99%, RT=4.11 min, M+1=297.

reactant | Ethyl 2-amino-4-phenyl-thiophene-3-carboxylate | 8.087 mmol, 2 g | NC=1SC=C(C1C(=O)OCC)C1=CC=CC=C1 | C13H13NO2S
reactant | trifluoroacetamidine | 40.44 mmol, 4.531 g | FC(C(=N)N)(F)F | C2H3F3N2
reactant | trifluoroacetamidine | 40.44 mmol, 4.531 g | FC(C(=N)N)(F)F | C2H3F3N2
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 5-phenyl-2-(trifluoromethyl)-3H-thieno[2,3-d]pyrimidin-4-one | 1.195 g | C1(=CC=CC=C1)C1=CSC=2N=C(NC(C21)=O)C(F)(F)F | C13H7F3N2OS
